US08058300B2
Step 3: 1-{4′-[3-Methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopentanecarboxylic acid ethyl ester:
[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-phenyl-ethyl ester (0.077 g, 0.19 mmol), 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopentanecarboxylic acid ethyl ester (0.079 g, 0.23 mmol), and potassium carbonate (0.066 g, 0.48 mmol) were combined in 2:1 DME:H2O (3 mL). The solution was purged with N2 for 5 minutes, and then tetrakis(triphenylphosphine)palladium(0) (0.022 g, 0.02 mmol) was added. The mixture was purged with N2 for an additional 5 minutes, and then the reaction was stirred at 90° C. in a sealed tube for 1.5 hours. Aqueous work-up, followed by silica gel chromatography, provided the title compound.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-phenyl-ethyl ester | 0.19 mmol, 0.077 g | C1(=CC=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H17BrN2O3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopentanecarboxylic acid ethyl ester | 0.23 mmol, 0.079 g | C(C)OC(=O)C1(CCCC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H29BO4
reactant | potassium carbonate | 0.48 mmol, 0.066 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 0.022 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 3 mL | O | H2O
product | 1-{4′-[3-Methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCCC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)O[C@H](C)C1=CC=CC=C1 | C33H34N2O5
